US05340811
To 5.74 g of N-(2-hydroxyethyl)-1-chloro-5-isoquinolinesulfonamide was successively added 80 ml of pyridine and 7.62 g of p-toluenesulfonylchloride and the mixture was stirred at 15° to 20 ° C. for 24 hours. After completion of the reaction, the mixture was cooled with 200 g of ice water and the mixture was subjected to extraction with 200 ml of dichloromethane twice. The resultant dichloromethane layer was dried over anhydrous magnesium sulfate and the residue was subjected to purification by means of a chromatography column packed with 200 g of silica gel (Wacogel C-200, manufactured by Wako Pure Chemical Industries, Ltd., Japan) using chloroform as an eluent to obtain 6.61 g of N-(2-paratoluenesulfonyloxyethyl)-1-chloro-5-isoquinolinesulfonamide (yield: 75%).

reactant | N-(2-hydroxyethyl)-1-chloro-5-isoquinolinesulfonamide | 5.74 g | OCCNS(=O)(=O)C=1C=2C=CN=C(C2C=CC1)Cl | C11H11ClN2O3S
reactant | p-toluenesulfonylchloride | 7.62 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-paratoluenesulfonyloxyethyl)-1-chloro-5-isoquinolinesulfonamide | 6.61 g, yield: 75% | C1(=CC=C(C=C1)S(=O)(=O)OCCNS(=O)(=O)C=1C=2C=CN=C(C2C=CC1)Cl)C | C18H17ClN2O5S2
